US07456315B2
2.78 g (0.00526 mol) of 2-ethyl-3-methoxy-benzoic acid N′-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-N′-(3,5-dimethyl-benzoyl)-hydrazide were dissolved in 24 mL of THF. The mixture was cooled in an ice bath and 6.0 mL (0.006 mol) of a 1 M tetrabutyl ammonium fluoride solution in THF were added. The reaction was stirred at room temperature for 5-6 hours, and then 100 mL of Et2O were added and the reaction mixture was poured into ice water in a separatory funnel. The aqueous layer was further extracted twice with 25 mL of Et2O and the total ether layer was dried and concentrated. TLC of the product showed a new product (Rf 0.20) below some of the starting material. The product was purified by chromatography, eluting with 40-50% ethyl acetate/hexane to yield 1.42 g of pure 3,5-dimethyl-benzoic acid N′-[1-(2-ethyl-3-methoxy-phenyl)-vinyl]-N-(2-hydroxy-1,1-dimethyl-ethyl)-hydrazide. (67% yield). TLC: Rf=0.20. 1H NMR (CDCl3, 300 MHz) δ (ppm): 7.1-6.8 (m, 5H), 6.0 (d, 1H), 4.3 (d, 1H), 3.78 (s, 3H), 3.5 (d 1H), 2.4 (d, 1H) 2.29(s, 6H), 2.2 (d, H), 1.56 (s, 3H), 1.45 (s, 3H), 1.00 (t, 3H).

reactant | 2-ethyl-3-methoxy-benzoic acid N′-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-N′-(3,5-dimethyl-benzoyl)-hydrazide | 0.00526 mol, 2.78 g | C(C)(C)(C)[Si](OCC(C)(C)N(NC(C1=C(C(=CC=C1)OC)CC)=O)C(C1=CC(=CC(=C1)C)C)=O)(C)C | C29H44N2O4Si
reactant | tetrabutyl ammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Et2O | 100 mL | CCOCC | C4H10O
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | 3,5-dimethyl-benzoic acid N′-[1-(2-ethyl-3-methoxy-phenyl)-vinyl]-N-(2-hydroxy-1,1-dimethyl-ethyl)-hydrazide | 1.42 g, 67% yield | C(C)C1=C(C=CC=C1OC)C(=C)NN(C(C1=CC(=CC(=C1)C)C)=O)C(CO)(C)C | C24H32N2O3
